US06500985B2
L-phenylalanine methyl ester hydrochloride (5.95 g) and benzophenonimine (5.00 g) were added to methylene chloride (100 ml), and the mixture was stirred overnight at room temperature. The solid was filtered off from the reaction solution, and the solvent was distilled off under reduced pressure. Then, diethyl ether (100 ml) was added to the residue. The solid was filtered off again, and the ether layer was then washed with water (100 ml), and dried over anhydrous magnesium sulfate. After magnesium sulfate was removed, the ether solution was concentrated to obtain desired N-(diphenylmethylene)-L-phenylalanine methyl ester (9.44 g) in a yield of 99.6%.

reactant | L-phenylalanine methyl ester hydrochloride | 5.95 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | benzophenonimine | 5.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(diphenylmethylene)-L-phenylalanine methyl ester | 9.44 g, yield of 99.6% | COC([C@@H](N=C(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H21NO2
